US05443959
A lysine reagent was prepared in the same manner as in the above preparation of glycine reagent except that the glycine was replaced with L-lysine hydrochloride (supplied by Wako Pure Chemical Industries, Ltd.).

reactant | glycine | NCC(=O)O | C2H5NO2
reactant | L-lysine hydrochloride | Cl.N[C@@H](CCCCN)C(=O)O
product | lysine | N[C@@H](CCCCN)C(=O)O | C6H14N2O2
